US05624917
A mixture of N-[6-(s-triazolo[4,3-a]pyridin-3-ylthio)hexyl]phthalimide (16.5 g), hydrazine monohydrate (4.34 g) and ethanol (135 ml) was heated under reflux for 1 hour. The deposited crystals were separated by filtration, and the filtrate was concentrated under reduced pressure to obtain 6-(s-triazolo[4,3-a]pyridin-3-ylthio)hexylamine as an oil. Yield: 87.5%.

reactant | N-[6-(s-triazolo[4,3-a]pyridin-3-ylthio)hexyl]phthalimide | 16.5 g | N=1N=C(N2C1C=CC=C2)SCCCCCCN2C(C=1C(C2=O)=CC=CC1)=O | C20H20N4O2S
reactant | hydrazine monohydrate | 4.34 g | O.NN
solvent | ethanol | 135 ml | C(C)O | C2H6O
product | 6-(s-triazolo[4,3-a]pyridin-3-ylthio)hexylamine | Yield: 87.5% | N=1N=C(N2C1C=CC=C2)SCCCCCCN | C12H18N4S
